US09447044B2
Step A: 6-cyclobutylsulfanyl-pyridine-2-carboxylic acid ethyl ester
After 6-mercapto-pyridine-2-carboxylic acid ethyl ester (0.40 g, 2.18 mmol) was dissolved in CH3CN (9 mL), Cs2CO3(2.667 g, 6.54 mmol) and bromo cyclobutane (0.385 mL, 3.27 mmol) were added thereto, and the mixture was stirred at 50° C. for 18 hours. After the termination of the reaction, the reactant was filtered, concentrated under reduced pressure, and purified by column chromatography (eluent, EtOAc/Hex=1/5) to obtain the title compound (0.481 g, 92%).

reactant | 6-mercapto-pyridine-2-carboxylic acid ethyl ester | 2.18 mmol, 0.40 g | C(C)OC(=O)C1=NC(=CC=C1)S | C8H9NO2S
reactant | Cs2CO3 | 6.54 mmol, 2.667 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | bromo cyclobutane | 3.27 mmol, 0.385 mL | BrC1CCC1 | C4H7Br
solvent | CH3CN | 9 mL | CC#N | C2H3N
product | 6-cyclobutylsulfanyl-pyridine-2-carboxylic acid ethyl ester | 0.481 g, 92% | C(C)OC(=O)C1=NC(=CC=C1)SC1CCC1 | C12H15NO2S
